US07232821B2
5-{2-[5-fluoro-2(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}-3-(propionamido)benzoic acid 4-fluorobenzyl ester
Prepared by general procedure 5 but using 5-[2-(5-fluoro-2-hydroxyphenyl)cyclopent-1-enyl]-3-(propionamido)benzoic acid instead of 6-[2-(5-chloro-2-hydroxyphenyl)cyclopent-1-enyl]pyridine-2 carboxylic acid, 4-fluorobenzyl bromide instead of 4-chlorobenzyl bromide and acetone instead of 2-butanone.

reactant | 5-[2-(5-fluoro-2-hydroxyphenyl)cyclopent-1-enyl]-3-(propionamido)benzoic acid | FC=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C=C(C(=O)O)C1)NC(CC)=O)O | C21H20FNO4
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | acetone | CC(=O)C | C3H6O
product | 5-{2-[5-fluoro-2(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}-3-(propionamido)benzoic acid 4-fluorobenzyl ester | FC1=CC=C(COC(C2=CC(=CC(=C2)C2=C(CCC2)C2=C(C=CC(=C2)F)OCC2=CC=C(C=C2)F)NC(CC)=O)=O)C=C1 | C35H30F3NO4
